US07759361B2
7.2 (RS)-2-Phenylsulfanylmethyl-1-aza-bicyclo[2.2.2]octan-3-one
To a stirred solution of 2-methylene-3-quinuclidinone hydrochloride (1 g, 0.0057 mol) in water (10 ml) triethylamine (1.73 g, 0.0171 mol), tetra-n-butyl ammonium bromide (180 mg, 0.00057 mol) and thiophenol (0.63 g, 0.0057 mol) were added and the reaction mixture was allowed to stir at 80° C. for 18 h. The completion of reaction was monitored by tlc. The reaction mixture was quenched with ice-cold water (20 ml), extracted with dichloromethane (4×50 ml), organic layers were washed with brine and dried over sodium sulphate, filtered and concentrated to get the crude product which was purified (550 mg) by column chromatography on silica gel using chloroform as eluent.

reactant | 2-methylene-3-quinuclidinone hydrochloride | 0.0057 mol, 1 g | Cl.C=C1N2CCC(C1=O)CC2
reactant | water | 0.0171 mol, 10 ml, 1.73 g | O | H2O
reactant | thiophenol | 0.0057 mol, 0.63 g | C1(=CC=CC=C1)S | C6H6S
catalyst | tetra-n-butyl ammonium bromide | 0.00057 mol, 180 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (RS)-2-Phenylsulfanylmethyl-1-aza-bicyclo[2.2.2]octan-3-one | C1(=CC=CC=C1)SCC1N2CCC(C1=O)CC2 | C14H17NOS
